* source I-DECODER-4BITS
R_R4         LSB N13369  10Meg  
R_R1         MSB N13369  10Meg  
V_VDD         N13369 0 3.3
R_DECODER_R2         DECODER_N10574 MSB  1  
M_DECODER_NAND_M2         DECODER_NAND_N27813 Q15 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND_M4         DECODER_N00277 Q15 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND_R1         0 N13020  10Meg  
R_DECODER_NAND_R2         0 Q15  10Meg  
M_DECODER_NAND_M5         DECODER_N00277 N13020 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND_M6         DECODER_N00277 N13020 DECODER_NAND_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND7_M2         DECODER_NAND7_N27813 Q6 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND7_M4         DECODER_N05416 Q6 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND7_R1         0 N12600  10Meg  
R_DECODER_NAND7_R2         0 Q6  10Meg  
M_DECODER_NAND7_M5         DECODER_N05416 N12600 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND7_M6         DECODER_N05416 N12600 DECODER_NAND7_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND10_M2         DECODER_NAND10_N27813 Q12 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND10_M4         DECODER_N05842 Q12 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND10_R1         0 N12714  10Meg  
R_DECODER_NAND10_R2         0 Q12  10Meg  
M_DECODER_NAND10_M5         DECODER_N05842 N12714 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND10_M6         DECODER_N05842 N12714 DECODER_NAND10_N27813 0 CMOSN
+   
+ L=.18u  
+ W=.18u         
M_DECODER_NAND4_M2         DECODER_NAND4_N27813 Q7 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND4_M4         DECODER_N00437 Q7 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND4_R1         0 N12648  10Meg  
R_DECODER_NAND4_R2         0 Q7  10Meg  
M_DECODER_NAND4_M5         DECODER_N00437 N12648 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND4_M6         DECODER_N00437 N12648 DECODER_NAND4_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_DECODER_R3         0 DECODER_N10574  10Meg  
M_DECODER_NAND1_M2         DECODER_NAND1_N27813 Q13 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND1_M4         DECODER_N00293 Q13 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND1_R1         0 N12900  10Meg  
R_DECODER_NAND1_R2         0 Q13  10Meg  
M_DECODER_NAND1_M5         DECODER_N00293 N12900 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND1_M6         DECODER_N00293 N12900 DECODER_NAND1_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_DECODER_INVERSOR2_R1         0 Q4  10Meg  
M_DECODER_INVERSOR2_M5         DECODER_N21342 Q4 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_INVERSOR2_M6         DECODER_N21342 Q4 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND8_M2         DECODER_NAND8_N27813 Q10 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND8_M4         DECODER_N05692 Q10 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND8_R1         0 N12714  10Meg  
R_DECODER_NAND8_R2         0 Q10  10Meg  
M_DECODER_NAND8_M5         DECODER_N05692 N12714 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND8_M6         DECODER_N05692 N12714 DECODER_NAND8_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND11_M2         DECODER_NAND11_N27813 DECODER_N05842 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND11_M4         3SB DECODER_N05842 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND11_R1         0 DECODER_N21342  10Meg  
R_DECODER_NAND11_R2         0 DECODER_N05842  10Meg  
M_DECODER_NAND11_M5         3SB DECODER_N21342 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND11_M6         3SB DECODER_N21342 DECODER_NAND11_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND5_M2         DECODER_NAND5_N27813 Q5 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND5_M4         DECODER_N00389 Q5 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND5_R1         0 N12600  10Meg  
R_DECODER_NAND5_R2         0 Q5  10Meg  
M_DECODER_NAND5_M5         DECODER_N00389 N12600 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND5_M6         DECODER_N00389 N12600 DECODER_NAND5_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_DECODER_INVERSOR1_R1         0 Q2  10Meg  
M_DECODER_INVERSOR1_M5         DECODER_N05351 Q2 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_INVERSOR1_M6         DECODER_N05351 Q2 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_DECODER_INVERSOR_R1         0 Q1  10Meg  
M_DECODER_INVERSOR_M5         DECODER_N00653 Q1 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_INVERSOR_M6         DECODER_N00653 Q1 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_DECODER_R1         Q8 DECODER_N10574  1  
M_DECODER_NAND2_M2         DECODER_NAND2_N27813 Q11 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND2_M4         DECODER_N00317 Q11 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND2_R1         0 N12798  10Meg  
R_DECODER_NAND2_R2         0 Q11  10Meg  
M_DECODER_NAND2_M5         DECODER_N00317 N12798 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND2_M6         DECODER_N00317 N12798 DECODER_NAND2_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-4_M7         DECODER_NAND-4_N35977 DECODER_N05550 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-4_M5         2SB DECODER_N05692 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND-4_M1         2SB DECODER_N05351 DECODER_NAND-4_N35641 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_DECODER_NAND-4_R4         DECODER_N05550 0  10Meg  
M_DECODER_NAND-4_M6         DECODER_NAND-4_N35937 DECODER_N05692
+  DECODER_NAND-4_N35977 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-4_M2         DECODER_NAND-4_N35641 DECODER_N05416
+  DECODER_NAND-4_N35937 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-4_M8         2SB DECODER_N05550 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND-4_M3         2SB DECODER_N05351 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND-4_R1         DECODER_N05351 0  10Meg  
M_DECODER_NAND-4_M4         2SB DECODER_N05416 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND-4_R2         DECODER_N05416 0  10Meg  
R_DECODER_NAND-4_R3         DECODER_N05692 0  10Meg  
M_DECODER_NAND6_M2         DECODER_NAND6_N27813 Q3 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND6_M4         DECODER_N00349 Q3 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND6_R1         0 N12562  10Meg  
R_DECODER_NAND6_R2         0 Q3  10Meg  
M_DECODER_NAND6_M5         DECODER_N00349 N12562 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND6_M6         DECODER_N00349 N12562 DECODER_NAND6_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND9_M2         DECODER_NAND9_N27813 Q14 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND9_M4         DECODER_N05550 Q14 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND9_R1         0 N12900  10Meg  
R_DECODER_NAND9_R2         0 Q14  10Meg  
M_DECODER_NAND9_M5         DECODER_N05550 N12900 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND9_M6         DECODER_N05550 N12900 DECODER_NAND9_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND3_M2         DECODER_NAND3_N27813 Q9 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND3_M4         DECODER_N00265 Q9 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND3_R1         0 N12714  10Meg  
R_DECODER_NAND3_R2         0 Q9  10Meg  
M_DECODER_NAND3_M5         DECODER_N00265 N12714 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND3_M6         DECODER_N00265 N12714 DECODER_NAND3_N27813 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-8_M1         LSB DECODER_N00653 DECODER_NAND-8_N53888 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-8_M14         DECODER_NAND-8_N53542 DECODER_N00293
+  DECODER_NAND-8_N56639 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-8_M6         DECODER_NAND-8_N54114 DECODER_N00389
+  DECODER_NAND-8_N54154 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-8_M8         LSB DECODER_N00293 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND-8_M16         LSB DECODER_N00437 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND-8_R6         DECODER_N00317 0  10Meg  
M_DECODER_NAND-8_M2         DECODER_NAND-8_N53888 DECODER_N00349
+  DECODER_NAND-8_N54114 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_DECODER_NAND-8_R8         DECODER_N00277 0  10Meg  
R_DECODER_NAND-8_R7         DECODER_N00293 0  10Meg  
M_DECODER_NAND-8_M3         LSB DECODER_N00349 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND-8_R1         DECODER_N00653 0  10Meg  
R_DECODER_NAND-8_R2         DECODER_N00349 0  10Meg  
R_DECODER_NAND-8_R5         DECODER_N00265 0  10Meg  
M_DECODER_NAND-8_M15         DECODER_NAND-8_N56639 DECODER_N00277 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-8_M4         LSB DECODER_N00389 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND-8_R3         DECODER_N00389 0  10Meg  
M_DECODER_NAND-8_M11         LSB DECODER_N00653 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND-8_M7         DECODER_NAND-8_N54154 DECODER_N00437
+  DECODER_NAND-8_N53250 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-8_M9         LSB DECODER_N00317 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND-8_M12         LSB DECODER_N00265 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
R_DECODER_NAND-8_R4         DECODER_N00437 0  10Meg  
M_DECODER_NAND-8_M5         LSB DECODER_N00277 N13369 N13369 CMOSP  
+ L=.18u  
+ W=.2u         
M_DECODER_NAND-8_M10         DECODER_NAND-8_N53250 DECODER_N00265
+  DECODER_NAND-8_N53536 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_DECODER_NAND-8_M13         DECODER_NAND-8_N53536 DECODER_N00317
+  DECODER_NAND-8_N53542 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_R2         3SB N13369  10Meg  
V_SEÑALES_-V2         N12562 0  
+PULSE 0 3 1.9u .1u 0 13u 15u
V_SEÑALES_V13         Q13 0  
+PULSE 3 0 12.9u .1u 0 2u 15u
V_SEÑALES_V3         Q3 0  
+PULSE 3 0 2.9u .1u 0 12u 15u
V_SEÑALES_V14         Q14 0  
+PULSE 3 0 13.9u .1u 0 1u 15u
V_SEÑALES_V15         Q15 0  
+PULSE 3 0 14.9u .1u 0u 0u 15u
V_SEÑALES_V1         Q1 0  
+PULSE 3 0 0.9u .1u 0 14u 15u
V_SEÑALES_V9         Q9 0  
+PULSE 3 0 8.9u .1u 0 6u 15u
V_SEÑALES_V8         Q8 0  
+PULSE 3 0 7.9u .1u 0 7u 15u
V_SEÑALES_V4         Q4 0  
+PULSE 3 0 3.9u .1u 0 11u 15u
V_SEÑALES_-V8         N12714 0  
+PULSE 0 3 7.9u .1u 0 7u 15u
V_SEÑALES_-V14         N13020 0  
+PULSE 0 3 13.9u .1u 0 1u 15u
V_SEÑALES_V6         Q6 0  
+PULSE 3 0 5.9u .1u 0 9u 15u
V_SEÑALES_V10         Q10 0  
+PULSE 3 0 9.9u .1u 0 5u 15u
V_SEÑALES_-V10         N12798 0  
+PULSE 0 3 9.9u .1u 0 5u 15u
V_SEÑALES_V11         Q11 0  
+PULSE 3 0 10.9u .1u 0 4u 15u
V_SEÑALES_-V4         N12600 0  
+PULSE 0 3 3.9u .1u 0 11u 15u
V_SEÑALES_-V6         N12648 0  
+PULSE 0 3 5.9u .1u 0 9u 15u
V_SEÑALES_V12         Q12 0  
+PULSE 3 0 11.9u .1u 0 3u 15u
V_SEÑALES_V2         Q2 0  
+PULSE 3 0 1.9u .1u 0 13u 15u
V_SEÑALES_-V12         N12900 0  
+PULSE 0 3 11.9u .1u 0 3u 15u
V_SEÑALES_V5         Q5 0  
+PULSE 3 0 4.9u .1u 0 10u 15u
V_SEÑALES_V7         Q7 0  
+PULSE 3 0 6.9u .1u 0 8u 15u
R_R3         2SB N13369  10Meg  
